US07981903B2
A slurry of 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (50 g, 146 mmol) and 2-amino-6-fluorobenzoic acid (27.2 g, 175 mmol) (for instance from Acros Organics, Belgium) in iPrOH (1200 mL) and 30 mL of DIEA was heated to reflux. After 1 h, the solution turned a clear brown color, at which time about 450 mL of solvent were removed via distillation. The remaining mixture was treated with DIEA (90 mL) and heated to reflux for 16 hours. The reaction mixture was then further concentrated by distilling more solvent off (400 mL over 4 hours), then continued heating at reflux overnight. The resulting mixture was cooled to room temperature and concentrated under reduced pressure to obtain a thick oil which was diluted with EtOAc (1.3 L), then sequentially washed with a 1N HCl solution (2×500 mL), and a saturated NaHCO3 solution (500 mL). Further dilution of the separated organic layer with a saturated NaCl solution (500 mL) led to the formation of a thick precipitate. The entire mixture was filtered and the solid was washed with Et2O. The solid was dried overnight in a vacuum oven at 60° C. to obtain 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid as a yellow solid (61.63 g, 92%). 1H NMR (400 MHz, DMSO-d5) δ ppm 2.37 (s, 3H), 6.67 (d, J=3.85 Hz, 1H), 6.71-6.81 (m, 1H), 7.31 (td, J=8.33, 6.04 Hz, 1H), 7.48 (d, J=8.24 Hz, 2H), 7.74 (d, J=4.03 Hz, 1H), 7.98 (d, J=8.42 Hz, 2H), 8.36 (d, J=8.24 Hz, 1H); ESIMS (M+H)+=461.06.

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 146 mmol, 50 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-6-fluorobenzoic acid | 175 mmol, 27.2 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
solvent | iPrOH | 1200 mL | CC(C)O | C3H8O
solvent | DIEA | 30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 1.3 L | CCOC(=O)C | C4H8O2
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid | 61.63 g, 92% | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)O)C(=CC=C2)F | C20H14ClFN4O4S
